US05053509
A solution of potassium permanganate (115 g) in water (1.215 liters) is added in the course of 1 hour to a stirred suspension, cooled to 10° C., of 2-chloro-6,7-difluoro-3-formyl-1,4-dihydro quinoline (70.18 g) in N aqueous potassium hydroxide solution (970 cc) while the temperature is maintained at between 10° and 14° C. The temperature is allowed to rise to approximately 20° C. and the mixture is stirred for a further 30 minutes at this temperature. Sodium dithionite (38.5 g) is added and the mixture is stirred for 10 minutes at a temperature in the region of 20° C., filtered through diatomaceous silica and washed with water (3×200 cc). The filtrate and the aqueous washing phases are combined and treated with 35% strength aqueous hydrochloric acid solution (140 cc). The precipitate formed is extracted with ethyl acetate (4×800 cc). The combined organic extracts are washed with water (2×500 cc), dried over magnesium sulphate, filtered and concentrated under reduced pressure (20 kPa) at 50° C. The residue is taken up with ethyl ether (400 cc), drained and washed with the same solvent (2×200 cc). 2-Chloro-6,7-difluoro-3-quinolinecarboxylic acid (49.2 g) is obtained in the form of a beige solid, m.p. 232° C., which is used without further purification for the subsequent steps.

reactant | potassium permanganate | 115 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 2-chloro-6,7-difluoro-3-formyl-1,4-dihydro quinoline | 70.18 g | ClC=1NC2=CC(=C(C=C2CC1C=O)F)F | C10H6ClF2NO
reactant | Sodium dithionite | 38.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 1.215 liters | O | H2O
solvent | potassium hydroxide | 970 cc | [OH-].[K+]
product | 2-Chloro-6,7-difluoro-3-quinolinecarboxylic acid | 49.2 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)O)F)F | C10H4ClF2NO2
